US08030499B2
Step 56-1: Synthesis of 3-amino-5-chloro-3-(2-methoxyphenyl)-1-{[4-methoxy-2-(trifluoromethoxy)phenyl]sulfonyl}-1,3-dihydro-2H-indol-2-one
With 5.54 g of 3-amino-5-chloro-3-(2-methoxyphenyl)-1,3-dihydro-2H-indol-2-one 5.00 g, 4-methoxy-2-(trifluoromethoxy)benzene sulfonyl chloride, which is the compound described in Preparation 1.18A of the brochure Publication No. WO03/008407, as starting materials, 4.99 g of the title compound (light yellow solid) was obtained by a similar method to Example 2.

reactant | 3-amino-5-chloro-3-(2-methoxyphenyl)-1,3-dihydro-2H-indol-2-one | 5.54 g | NC1(C(NC2=CC=C(C=C12)Cl)=O)C1=C(C=CC=C1)OC | C15H13ClN2O2
reactant | 4-methoxy-2-(trifluoromethoxy)benzene sulfonyl chloride | COC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C8H6ClF3O4S
product | 3-amino-5-chloro-3-(2-methoxyphenyl)-1-{[4-methoxy-2-(trifluoromethoxy)phenyl]sulfonyl}-1,3-dihydro-2H-indol-2-one | 4.99 g | NC1(C(N(C2=CC=C(C=C12)Cl)S(=O)(=O)C1=C(C=C(C=C1)OC)OC(F)(F)F)=O)C1=C(C=CC=C1)OC | C23H18ClF3N2O6S
